US07691869B2
The title B compound, N′-(2-amino-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide (53 mg, 0.11 mmol) is dissolved in 0.5 mL of HMDS and 0.5 mL in BSA. The mixture is heated at 120° C. for 16 h, then cooled to RT and evaporated to dryness. The residue is stirred in a mixture of DCM and 6N aqueous HCl for an hour at RT, then the pH is adjusted to 9 with 1M aqueous NaOH. The organic phase is collected and the aqueous phase extracted with additional DCM. The combined organic extracts are dried (Na2SO4), filtered and evaporated. Purification of the residue by flash chromatography, eluting with 3% MeOH in DCM affords 7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine as an off-white solid: LC/MS (M+1=465.2). 1H NMR (CDCl3) δ 3.01 (m, 2H), 3.25 (m, 2H), 3.39 (m, 2H), 3.52 (m, 4H), 4.86 (t, 2H, J=6.6 Hz), 5.76 (br s, 2H), 6.54 (dd, 1H, J=1.8 Hz and 3.4 Hz), 6.8-6.72 (m, 3H), 7.11 (dd, 1H, J=4.6 Hz), 7.19 (m, 2H), 7.57 (t, 1H, J=0.8 Hz).

reactant | N′-(2-amino-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide | 0.11 mmol, 53 mg | NC=1N=C(C2=C(N1)N(C=C2)CCN2CCN(CC2)C2=C(C=C(C=C2)F)F)NNC(=O)C=2OC=CC2 | C23H24F2N8O2
solvent | HMDS | 0.5 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | 7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=CC(=C1)F)N1CCN(CC1)CCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C23H22F2N8O
